US04374137
6',7'-Dimethoxyspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] maleate
A mixture of 6',7'-dimethoxy-2'-ethoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (4.2 g), potassium hydroxide (7.0 g) and water (7.0 ml) in n-propanol (150 ml) is heated under reflux for four hours. Removal of the solvent under reduced pressure yields an oil which is stirred in water (300 ml) and then extracted with chloroform. The combined organic phases are washed with water, saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent is removed to yield 3.1 g (81%) of product as an oil which is dissolved in ether and converted to the maleate salt (1.9 g), mp 165°-167°. The material is twice recrystallized from ethyl acetate/methanol to yield a white solid (1.4 g), mp 180°-181° (dec.)

reactant | 6',7'-dimethoxy-2'-ethoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 4.2 g | COC=1C=C2C3(CN(CC2=CC1OC)C(=O)OCC)OC1=C(C3)C=CC=C1 | C21H23NO5
reactant | potassium hydroxide | 7.0 g | [OH-].[K+]
reactant | n-propanol | 150 ml | C(CC)O | C3H8O
solvent | water | 300 ml | O | H2O
solvent | water | 7.0 ml | O | H2O
product | 6',7'-Dimethoxyspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] maleate | 3.1 g, 81% | C(\C=C/C(=O)O)(=O)O.COC=1C=C2C3(CNCC2=CC1OC)OC1=C(C3)C=CC=C1 | InChI=1S/C18H19NO3.C4H4O4/c1-20-16-7-13-10-19-11-18(14(13)8-17(16)21-2)9-12-5-3-4-6-15(12)22-18;5-3(6)1-2-4(7)8/h3-8,19H,9-11H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
